US06184322B2
Methyl 2-(4-undec-10-enyloxyphenyl)ethanoate, (19)
A solution of methyl (4-hydroxyphenyl)ethanoate (7.50 g, 45 mmol)1-bromoudec-10-ene (10 g, 43 mmol) and potassium carbonate (7.50 g, 54 mmol) in butanone (250 ml) was heated under reflux (12 h). The solvent was removed in vacuo to yield a pale yellow oil.

reactant | methyl (4-hydroxyphenyl)ethanoate | 45 mmol, 7.50 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 54 mmol, 7.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanone | 250 ml | CC(CC)=O | C4H8O
product | Methyl 2-(4-undec-10-enyloxyphenyl)ethanoate | C(CCCCCCCCC=C)OC1=CC=C(C=C1)CC(=O)OC | C20H30O3
